US07595403B2
The preparation of 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid benzylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6i (88% yield) was synthesized from benzo[d]isothiazol-3-one and benzyl isocyanate as a white solid. mp 169-170° C.; IR(CHCl3) 3281, 1711, 1663, 1536 cm−1; 1H-NMR (CDCl3) δ4.64 (d, J=5.9 Hz, 2H), 7.28-7.45 (m, 5H), 7.58 (d, J=7.2 Hz, 1H), 7.70 (t, J=7.2 Hz, 1H), 8.01 (d, J=7.2 Hz, 1H), 9.26 (br s, 1H); ESIMS m/e 285 (M++1).

reactant | benzo[d]isothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)N1SC2=C(C1=O)C=CC=C2 | C15H12N2O2S
